US04076829
3.3 g. of the 4-hydroxy-6-hydroxymethyl-indole thus prepared were dissolved in 30 ml. epichlorohydrin. To this solution were added dropwise, while stirring at ambient temperature, over the course of 1 hour, 20 ml. 2N sodium methylate solution. After about 5 hours, the starting material had reacted. The solution was evaporated in a vacuum and the residue was mixed with water, as well as with a mixture of diethyl ether and ethyl acetate. The organic phase was shaken out several times with water, subsequently dried, treated with active charcoal and evaporated. The crude 4-(2,3-epoxypropoxy)-6-hydroxymethyl-indole thus obtained (about 5 g. of a brownish oil) contains, as by-product, some 4-(2-hydroxy-3-chloropropoxy)-6-hydroxymethyl-indole but was further used without further purification.

reactant | 4-hydroxy-6-hydroxymethyl-indole | OC1=C2C=CNC2=CC(=C1)CO | C9H9NO2
reactant | epichlorohydrin | C(Cl)C1CO1 | C3H5ClO
reactant | sodium methylate | 2N | C[O-].[Na+]
product | 4-(2,3-epoxypropoxy)-6-hydroxymethyl-indole | O1C(COC2=C3C=CNC3=CC(=C2)CO)C1 | C12H13NO3
